datasets/RMG-dataset.csv
rxn,Ea
[H:0].[c:1]1[c:2]([H:7])[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]1[H:11]>>[H:0][H:7].[c:1]1[c:6]([H:11])[c:5]([H:10])[c:4]([H:9])[c:3]([H:8])[c:2]#1,102.508
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22],-2.76144
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[H:9]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][H:9],-1.2552
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:11]([C:10](=[C:9]([H:13])[H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16],59.8312
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[C:3]([C:4](=[C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([C:2]([H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[C:4]([H:16])[C:5]1([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:8])([H:9])[H:10],145.352
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6]>>[C:0]([C:1](=[C:2]([H:8])[H:9])[H:7])([H:5])([H:6])[H:12].[C:3](=[C:4]([H:13])[H:14])([H:10])[H:11],233.0
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([C:14]([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:14]([C:13]([H:21])([H:22])[H:23])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])[H:7],26.8613
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([c:24]1[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]1[H:36])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:23]([c:24]1[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]1[H:36])([H:30])[H:31])[H:13])([H:11])[H:12],39.8317
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[H:6]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][H:6],-2.5104
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:17])[H:18])[H:16])=[C:11]([C:12]([H:20])([H:21])[H:22])[H:19])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:11]([C:8]([C:7](=[C:6]([H:13])[H:14])[H:15])[C:9](=[C:10]([H:17])[H:18])[H:16])([C:12]([H:20])([H:21])[H:22])[H:19])[H:3],26.7776
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17])[H:7],39.497
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:26])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:9],35.815
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7][C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7](=[C:6]([H:9])[H:10])[C:8]([H:11])([H:12])[H:13],29.288
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([C:27](=[C:28]([H:32])[H:33])[H:31])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:26]([C:27](=[C:28]([H:32])[H:33])[H:31])([H:29])[H:30])[H:14])([H:12])[H:13],52.3
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][C:14]([H:15])([H:16])[H:17],29.932336
[C:0]([O:1][C:2](=[O:3])[O:4][O:5])([H:6])([H:7])[H:8]>>[C:0]([O:1][C:2](=[O:3])[O:4][O:5][H:6])([H:7])[H:8],120.9176
